US04622401
2-(3-Amino-5-methyl-2-pyrazoline-1-yl)-6-chloropyridine
A 0.23 g. amount of sodium metal is dissolved in 75 ml. of absolute ethanol, then 7.2 g of 2-chloro-6-hydrazinopyridine is added followed by 3.4 g. of distilled crotononitrile. The reaction mixture is refluxed for 18 hours and the procedure of Example 5 is followed through the anhydrous magnesium silicate filtration step. The filtrate is evaporated to give a dark orange gum which crystallizes on standing. The residue is dissolved in ether, treated with activated charcoal and filtered through diatomaceous earth. The filtrate is concentrated while adding hexane at reflux to yield an oil. The oil is seeded and cooled. Ether is added and continued cooling provides light yellow crystals. The mixture is filtered to give 5.2 g. of the desired product as pale yellow crystals, m.p. 105°-107° C.

reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | 2-chloro-6-hydrazinopyridine | 7.2 g | ClC1=NC(=CC=C1)NN | C5H6ClN3
reactant | crotononitrile | C(\C=C\C)#N | C4H5N
solvent | Ether | CCOCC | C4H10O
product | 2-(3-Amino-5-methyl-2-pyrazoline-1-yl)-6-chloropyridine | NC1=NN(C(C1)C)C1=NC(=CC=C1)Cl | C9H11ClN4
